US08022062B2
7-Chloro-6-(5-pyrrolidin-1-yl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 369, using 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and pyrrolidine to give the title compound as a pale yellow solid. MS (ES+) m/z: 374 (M+H)+.

reactant | 6-(5-bromopyridin-2-ylmethylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC=1C=CC(=NC1)CSC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C21H24BrClN2O2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 7-Chloro-6-(5-pyrrolidin-1-yl-pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC=C(C=C1)N1CCCC1 | InChI=1S/C20H24ClN3S.ClH/c21-19-6-3-15-7-9-22-10-8-18(15)20(19)25-14-16-4-5-17(13-23-16)24-11-1-2-12-24;/h3-6,13,22H,1-2,7-12,14H2;1H
